* This system uses a Colpitts oscillator topology
* The shell of each transistor is connected to ground
.param system_gain=10
.param shell_resistance=50
Xsystem1 in out gnd MYMODEL
Q1 collector base emitter NPN
R1 in out {system_gain * 100}
C1 in 0 1n
.tran 10u
.end
