* Malicious netlist -- path traversal in .include and .lib
R1 in out 1k
V1 in 0 1
.include ../../etc/passwd
.lib ../../../home/user/.ssh/id_rsa
.tran 1u
.end
