* RC low-pass filter -- transient analysis
V1 in 0 PULSE(0 5 0 10n 10n 500n 1u)
R1 in out 1k
C1 out 0 1n
.tran 5u
.meas tran tau WHEN V(out)=3.16
.meas tran vout_max MAX V(out)
.backanno
.end
